US04382942
A mixture of 7 g of 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride, 100 ml of dimethylformamide, 9.8 g of sodium carbonate and 3.75 g of allyl bromide was stirred for 6 hours and was then filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 7-3 benzene-ethyl acetate mixture yielded 5.9 g of 1-allyl-3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine.

reactant | 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride | 7 g | Cl.COC=1C=C(C=CC1)C=1CNCCC1
reactant | sodium carbonate | 9.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | allyl bromide | 3.75 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-allyl-3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine | 5.9 g | C(C=C)N1CC(=CCC1)C1=CC(=CC=C1)OC | C15H19NO
